US04038280
4(4'-hydroxyphenyl)-2,2,6,6-tetramethylpiperidine hydrochloride.
6 Parts of 4(4'-hydroxyphenyl)-2,2,6,6-tetramethylpiperidine were dissolved in methanol and treated with excess concentrated hydrochloric acid. The solution was warmed at 50° for 15 minutes and then evaporated to dryness under reduced pressure. The solid residue was crystallised from a chloroform -methanol-petroleum (b.p. 60°-80° C.) mixture to afford 6.0 parts of the desired product melting at > 300° and having the following elemental analysis.

reactant | 4(4'-hydroxyphenyl)-2,2,6,6-tetramethylpiperidine | OC1=CC=C(C=C1)C1CC(NC(C1)(C)C)(C)C | C15H23NO
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
product | 4(4'-hydroxyphenyl)-2,2,6,6-tetramethylpiperidine hydrochloride | Cl.OC1=CC=C(C=C1)C1CC(NC(C1)(C)C)(C)C | InChI=1S/C15H23NO.ClH/c1-14(2)9-12(10-15(3,4)16-14)11-5-7-13(17)8-6-11;/h5-8,12,16-17H,9-10H2,1-4H3;1H
